US05665718
4.40 g (10 mmol) of (S)-1-[5-(BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred for 2 hours in 20 ml of trifluoroacetic acid. The solution was concentrated, the residue was taken up in water and the aqueous solution was washed twice with methylene chloride. The aqueous phase was made alkaline with 25% ammonia and extracted seven times with methylene chloride. After drying and evaporating the combined organic phases there were obtained 2.77 g (81%) of (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 195°-198°, which was converted into the hydrochloride of m.p. 275°.

reactant | (S)-1-[5-(BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 10 mmol, 4.40 g | C(=O)(OC(C)(C)C)C(C1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CC1)N | C21H21FN6O4
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.77 g, 81% | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CC1 | C16H13FN6O2
